2176-06-04 06:29:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   -Patient admited overnight.
   -5am increase in abdominal pain, tachycardic tachypneic
 urology
   called and reported he will be going to the OR in the morning.
   -Started on IV morphine for pain control.
   Allergies:
   Amoxicillin
   Nausea/Vomiting
   Penicillins
   Nausea/Vomiting
   Coumadin (Oral) (Warfarin Sodium)
   Unknown;
   Oxycodone
   Unknown;
   Megestrol Acetate
   Nausea/Vomiting
   Remeron (Oral) (Mirtazapine)
   Unknown;
   Ritalin (Oral) (Methylphenidate Hcl)
   Confusion/Delir
   Last dose of Antibiotics:
   Cefipime - [**2176-6-4**] 02:07 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   None
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2176-6-4**] 05:43 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 35.8
C (96.5
   Tcurrent: 35.4
C (95.8
   HR: 122 (88 - 122) bpm
   BP: 142/66(94) {107/52(71) - 151/68(97)} mmHg
   RR: 34 (22 - 34) insp/min
   SpO2: 95%
   Heart rhythm: ST (Sinus Tachycardia)
    CVP: 12 (7 - 12)mmHg
   Total In:
                                                                  5,033 mL
   PO:
   TF:
   IVF:
                                                                  1,033 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                    670 mL
   Urine:
                                                                    270 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                      0 mL
                                                                  4,363 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 95%
   ABG: 7.37/30/70/16/-6
   Physical Examination
   General: Awake, responds to command,
   HEENT: MM dry.
   Pulmonary: Lungs CTA bilaterally, no wheezes, ronchi or rales
   Cardiac: Tachycardic, 2/6 systolic murmur
   Abdomen: No BS present.  Abd soft. Diffusely tender, R>L with voluntary
   guarding in right quadrants, ? rebound.
   Extremities: No edema, cool toes with evidence of PVD/dry gangrene of
   right 2nd/3rd toes.  Upper extremitites well perfused.
   Labs / Radiology
   234 K/uL
   10.2 g/dL
   164 mg/dL
   0.9 mg/dL
   16 mEq/L
   4.5 mEq/L
   26 mg/dL
   113 mEq/L
   139 mEq/L
   31.9 %
   13.8 K/uL
        [image002.jpg] Lactate 4.2, ABG: 7.37/30/70
                             [**2176-6-4**]  01:31 AM
                             [**2176-6-4**]  05:39 AM
   WBC
   12.8
   Hct
   33.3
   Plt
   281
   Cr
   0.9
   TCO2
   18
   Glucose
   164
   Other labs: PT / PTT / INR:15.2/31.2/1.3, Differential-Neuts:60.0 %,
   Band:25.0 %, Lymph:2.0 %, Mono:4.0 %, Eos:0.0 %, Lactic Acid:3.6
   mmol/L, Ca++:7.7 mg/dL, Mg++:1.5 mg/dL, PO4:3.2 mg/dL
   Assessment and Plan
   ASSESSMENT: 87M with history of Prostate Ca s/p XRT and prior bladder
   rupture presenting with abd pain, recurrent bladder rupture and
   hypotension.
   # Bladder rupture: Patient currently in lots of abdominal pain, worse
   than the previous night.  This is consistent with worsening peritonitis
   from his bladder rupture.  The etiology of the rupture remains
   unclear.  [**Name2 (NI) **] has friable tissue from previous XRT and has had a rupture
   before.  A recent foley trauma may have also caused the acute bladder
   rupture.  At this point he likely has urosepsis which has a difficult
   to treat source, that being the peritoneum.  Patient currently on
   Vancomycin, cefepime and gentamycin.  Urology is closely involved and
   overall plan is to go to OR today.  Family aware of overnight events.
   -F/U urology recs
 OR in am?
   -F/u Blood and Urine Cx.
   -Continue fluids as overall fluid status appears dry.
   -MAP > 65
   -Mixed venous O2 sat > 70
   -Cont. broad spec ABX with double coverage for GNR
   -F/U final read on CT scans
   -NPO
   # Tachycardia: appears to be sinus tach.  Likely in setting of fluid
   loss and pain.  Will continue to repelte fluids and attempt to control
   pain with IV morphine as well as tylenol.
   # DM: Patient did not receive his insulin sliding scale last night.
   Blood sugar elevated >200. Goal Blood sugars is less than 200.
   -HISS
   # HTN:
   -hold BP meds until post-op, sepsis resolved
   # Depression:
   -Hold lexapro until taking PO
   # FEN/Lytes: NPO, IVF, replete lytes prn
   ICU Care
   Nutrition: NPO for now.
   Glycemic Control:
   Lines:
   Multi Lumen - [**2176-6-4**] 12:17 AM
   18 Gauge - [**2176-6-4**] 02:06 AM
   20 Gauge - [**2176-6-4**] 02:06 AM
   Arterial Line - [**2176-6-4**] 02:07 AM
   Prophylaxis:
   DVT: Hep SC
   Stress ulcer:
   VAP:
   Comments:
   Communication:  With Pt and familyComments:
   Code status: Full code
   Disposition: Likely to OR this am.

2176-06-04 09:07:00 Physician Attending Progress Note
Chief Complaint: Sepsis
   Baldder Rupture
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   A-line placed
   Pressors weaned to off
   Had continued abdominal pain with modest increase
   24 Hour Events:
 MULTI LUMEN - START [**2176-6-4**] 12:17 AM
 ARTERIAL LINE - START [**2176-6-4**] 02:07 AM
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   Amoxicillin
   Nausea/Vomiting
   Penicillins
   Nausea/Vomiting
   Coumadin (Oral) (Warfarin Sodium)
   Unknown;
   Oxycodone
   Unknown;
   Megestrol Acetate
   Nausea/Vomiting
   Remeron (Oral) (Mirtazapine)
   Unknown;
   Ritalin (Oral) (Methylphenidate Hcl)
   Confusion/Delir
   Last dose of Antibiotics:
   Cefipime - [**2176-6-4**] 02:07 AM
   Gentamicin - [**2176-6-4**] 04:00 AM
   Vancomycin - [**2176-6-4**] 07:51 AM
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2176-6-4**] 07:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Gastrointestinal: Abdominal pain
   Signs or concerns for abuse : No
   Pain: [**6-5**] Moderate
   Flowsheet Data as of  [**2176-6-4**] 09:01 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 35.8
C (96.5
   Tcurrent: 15.3
C (59.6
   HR: 109 (88 - 123) bpm
   BP: 98/47(66) {90/47(65) - 151/68(97)} mmHg
   RR: 24 (22 - 34) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 68 Inch
   CVP: 12 (7 - 15)mmHg
   CO/CI (Fick): (9 L/min) / (5.1 L/min/m2)
   Mixed Venous O2% Sat: 77 - 77
   Total In:
                                                                  7,297 mL
   PO:
   TF:
   IVF:
                                                                  3,297 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                    770 mL
   Urine:
                                                                    370 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                      0 mL
                                                                  6,527 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: 7.37/30/70/17/-6
   Physical Examination
   General Appearance: Thin
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Distant), (Murmur: Systolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Diminished: )
   Abdominal: Soft, No(t) Non-tender, No(t) Bowel sounds present,
   Distended, Tender: Diffusely in lower quadrants and with suggestion of
   increased severity this morning
   Extremities: Right: 1+, Left: 1+
   Skin:  Not assessed
   Neurologic: Responds to: Verbal stimuli, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   10.2 g/dL
   234 K/uL
   136 mg/dL
   1.0 mg/dL
   17 mEq/L
   4.3 mEq/L
   25 mg/dL
   111 mEq/L
   139 mEq/L
   31.9 %
   13.8 K/uL
        [image002.jpg]
                             [**2176-6-4**]  01:31 AM
                             [**2176-6-4**]  05:27 AM
                             [**2176-6-4**]  05:39 AM
   WBC
   12.8
   13.8
   Hct
   33.3
   31.9
   Plt
   281
   234
   Cr
   0.9
   1.0
   TCO2
   18
   Glucose
   164
   136
   Other labs: PT / PTT / INR:15.2/30.7/1.3, Differential-Neuts:60.0 %,
   Band:25.0 %, Lymph:2.0 %, Mono:4.0 %, Eos:0.0 %, Lactic Acid:4.2
   mmol/L, Ca++:7.6 mg/dL, Mg++:1.6 mg/dL, PO4:3.1 mg/dL
   Fluid analysis / Other labs: Anion Gap=11
   Lactate incease to 4
   Imaging: CXR-Right IJ in good position, tortuous trachea, increased
   left sided opacity.
   Microbiology: All Pending
   Assessment and Plan
   87 yo male with h/o prostate CA and with chronic and indwelling foley
   now admitted with hematuria and sepsis with bladder rupture found on
   initial CT scan done for severe abdominal pain.  He has had initial
   goal directed therapy for sepsis with reasonable response to support
   across the night and decrese in pressors required but with persistent
   tachycardia, continued elevation in WBC count, increased in lactate and
   now with plans for operative intervention this am.
   1)Sepsis-
   -Continue broad spectrum ABX-_vanco/cefepime/gent
   -IVF bolus as needed
   -CvO2 adequate across the night, HCT-31
   -Will expect improvement with resolution of leak and drainage of leak
   into peritoneal space
   2)Baldder Rupture-
   -To OR this morning for repair
   -Will maintain urology recs post operatively
   -[**Month (only) 60**] well be reasonable to maintain intubation post operatively given
   brisk progression of sepsis and likely large volume needed
   intra-operatively
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 [**Last Name 121**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   Hematuria [**3-4**] bladder rupture
   ICU Care
   Nutrition: npo
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2176-6-4**] 12:17 AM
   18 Gauge - [**2176-6-4**] 02:06 AM
   20 Gauge - [**2176-6-4**] 02:06 AM
   Arterial Line - [**2176-6-4**] 02:07 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes

2176-06-05 06:30:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: sepsis, peritonitis
   24 Hour Events:
   -urology- s/p OR to close anterior perf, unable to reach posterior
   perforation, still with necrosis. Thought [**3-4**] foley malpositioning; has
   foley, suprapubic cath, jp tube near perforation for urine output; may
   need b/l nephrostomy tube, urinary diversion if not improving, JP to
   bulb suction, foley to gravity, broad spectrum antibx
   -peritoneal fluid- 4+ polys, 1+ GNR
   -urine culture- >100,000/mL GNR
   -cont cefepime, gentamicin spec/[**Last Name (un) **] pending
   -cont vancomycin
   -nutrition- clear sips
   -pain: morphine IV and Ditropan for bladder spasm
   -3PM gas- 7.29/36/143, lactate 4.8 (previous 4.5)
   -bolused 1L NS over 1 hr
   -transfused 2 units PRBCs at request of urology
   -6PM gas- 7.34/35/93, lactate 2.3
   -morphine changed to dilaudid (c/w urology) for better pain control
   -hypotensive overnight (?narcotics vs sepsis?)- gave 1.5L IVF in 500cc
   boluses, no need for pressors, to maintain MAP above 65
   -this morning, patient is disoriented and agitated, requiring two-point
   restraints
   Allergies:
   Amoxicillin
   Nausea/Vomiting
   Penicillins
   Nausea/Vomiting
   Coumadin (Oral) (Warfarin Sodium)
   Unknown;
   Oxycodone
   Unknown;
   Megestrol Acetate
   Nausea/Vomiting
   Remeron (Oral) (Mirtazapine)
   Unknown;
   Ritalin (Oral) (Methylphenidate Hcl)
   Confusion/Delir
   Last dose of Antibiotics:
   Cefipime - [**2176-6-4**] 01:48 PM
   Vancomycin - [**2176-6-4**] 08:00 PM
   Gentamicin - [**2176-6-5**] 04:00 AM
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2176-6-4**] 10:29 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2176-6-5**] 06:20 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36
C (96.8
   Tcurrent: 36
C (96.8
   HR: 113 (92 - 123) bpm
   BP: 115/57(77) {84/41(45) - 143/97(111)} mmHg
   RR: 23 (16 - 30) insp/min
   SpO2: 96%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 68 Inch
    CVP: 8 (1 - 15)mmHg
   CO/CI (Fick): (6.5 L/min) / (3.7 L/min/m2)
   SvO2: 73%
   Mixed Venous O2% Sat: 75 - 75
   Total In:
                                                                 16,308 mL
                                                                  1,301 mL
   PO:
   TF:
   IVF:
                                                                 11,658 mL
                                                                  1,301 mL
   Blood products:
                                                                    650 mL
   Total out:
                                                                  1,900 mL
                                                                    500 mL
   Urine:
                                                                    805 mL
                                                                    360 mL
   NG:
   Stool:
   Drains:
                                                                    665 mL
                                                                    140 mL
   Balance:
                                                                 14,408 mL
                                                                    801 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: 7.32/35/91.[**Numeric Identifier 96**]/16/-7
   Physical Examination
   General: Awake but disoriented
   HEENT: MM dry.
   Pulmonary: Lungs CTA bilaterally, no wheezes, ronchi or rales
   Cardiac: Tachycardic, 2/6 systolic murmur
   Abdomen: Diffusely tender. No guarding, no rigidity, no rebound.
   +percussion tenderness, +motion tenderness. Hypoactive BS.
   Extremities: No edema, cool toes with evidence of PVD/dry gangrene of
   right 2nd/3rd toes.  Upper extremitites well perfused.
   Labs / Radiology
   181 K/uL
   11.0 g/dL
   93 mg/dL
   0.7 mg/dL
   16 mEq/L
   4.2 mEq/L
   22 mg/dL
   115 mEq/L
   139 mEq/L
   32.1 %
   12.0 K/uL
        [image002.jpg]
                             [**2176-6-4**]  10:10 AM
                             [**2176-6-4**]  10:48 AM
                             [**2176-6-4**]  12:48 PM
                             [**2176-6-4**]  01:45 PM
                             [**2176-6-4**]  01:48 PM
                             [**2176-6-4**]  05:43 PM
                             [**2176-6-4**]  05:47 PM
                             [**2176-6-4**]  11:42 PM
                             [**2176-6-5**]  04:11 AM
                             [**2176-6-5**]  04:30 AM
   WBC
   19.4
   13.5
   12.0
   Hct
   24
   30
   27.4
   26
   28
   27.4
   33
   32.1
   Plt
   222
   207
   181
   Cr
   0.9
   0.8
   0.7
   TCO2
   19
   18
   18
   20
   19
   19
   Glucose
   129
   125
   112
   88
   93
   Other labs: PT / PTT / INR:15.1/35.5/1.3, Differential-Neuts:60.0 %,
   Band:25.0 %, Lymph:2.0 %, Mono:4.0 %, Eos:0.0 %, Lactic Acid:1.2
   mmol/L, LDH:212 IU/L, Ca++:7.4 mg/dL, Mg++:2.2 mg/dL, PO4:2.8 mg/dL
   Assessment and Plan
   An 87M with history of prostate CA s/p XRT and prior bladder rupture
   presenting with abd pain, recurrent bladder rupture and hypotension now
   s/p closure of anterior perforation, still with posterior bladder wall
   perforation.
   # Bladder rupture, Peritonitis, Sepsis, Hypotension: s/p closure of
   anterior perforation; posterior perforation left open with drain. The
   etiology of the rupture remains unclear.  [**Name2 (NI) **] has friable tissue from
   previous XRT and has had a rupture before.  A recent foley trauma may
   have also caused the acute bladder rupture.  He is likely still septic
   from peritonitis/bladder rupture, although he was afebrile overnight
   with decreasing white count. We have GNR from both urine and peritoneal
   fluid with speciation and sensitivities still pending.  Patient
   currently on Vancomycin, cefepime and gentamycin.
   -further surgical plan per urology team
   -continue cefepime, gentamycin, and vancomycin for now pending culture
   sensitivities
   -adjust gentamycin dose to 120mg q12h
   -can bolus with fluids 500 cc prn for MAP less than 65; aim for CVP of
   [**9-11**]
   # Tachycardia: sinus tach.  Likely in setting of fluid loss and pain.
   Will continue to replete fluids and attempt to control pain with IV
   dilaudid and tylenol.
   # Thrombocytopenia: recent drop in platelets 234->222->207->181. Does
   not meet criteria for HIT, but will continue to follow closely.
   -continue to monitor daily CBC
   # Altered mental status: He has multiple reasons for acute delirium,
   including baseline mild dementia, recent surgery, sepsis, pain.
   -encourage reorientation, family contact
   -treat infection, sepsis, pain as above
   -2-point restraints
   -consider Seroquel or Zyprexa qhs prn if agitation worsening at night
   # DM:
   -HISS
   # HTN:
   -hold BP meds until post-op, sepsis resolved
   # Depression:
   -hold lexapro until taking PO
   # FEN/Lytes: progress diet to clears prn, nutrition consult today
   ICU Care
   Nutrition: progress diet to clears today and nutrition consult
   Glycemic Control:  insulin sliding scale
   Lines:
   Multi Lumen - [**2176-6-4**] 12:17 AM
   18 Gauge - [**2176-6-4**] 02:06 AM
   20 Gauge - [**2176-6-4**] 02:06 AM
   Arterial Line - [**2176-6-4**] 02:07 AM
   Prophylaxis:
   DVT: Hep SC
   Stress ulcer: now tolerating pos
   VAP:
   Comments:
   Communication:  With Pt and family
   Code status: FULL code
   Disposition: ICU given hypotension/tachycardia

2176-06-05 09:49:00 Physician Attending Progress Note
Chief Complaint: sepsis, ruptured bladder
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   87M with h/o prostate ca and radiation, now with recurrent perforated
   bladder and peritonitis:
   24 Hour Events:
 OR SENT - At [**2176-6-4**] 09:00 AM
 OR RECEIVED - At [**2176-6-4**] 12:30 PM
   surgery yesterday.
   fluids overnight for bp and elevated lactate, all improved.
   most uop from JP drain unfortunately.
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   Amoxicillin
   Nausea/Vomiting
   Penicillins
   Nausea/Vomiting
   Coumadin (Oral) (Warfarin Sodium)
   Unknown;
   Oxycodone
   Unknown;
   Megestrol Acetate
   Nausea/Vomiting
   Remeron (Oral) (Mirtazapine)
   Unknown;
   Ritalin (Oral) (Methylphenidate Hcl)
   Confusion/Delir
   Last dose of Antibiotics:
   Cefipime - [**2176-6-4**] 01:48 PM
   Gentamicin - [**2176-6-5**] 04:00 AM
   Vancomycin - [**2176-6-5**] 08:15 AM
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2176-6-4**] 10:29 PM
   Other medications:
   insulin, cef 2g q12, vanco, gent, sqh, morphine->dilaudid,
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever, No(t) Weight loss
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea
   Gastrointestinal: Abdominal pain, No(t) Nausea
   Genitourinary: No(t) Dysuria, Foley
   Neurologic: No(t) Headache
   Signs or concerns for abuse : No
   Pain: [**4-3**] Mild
   Pain location: abdomen
   Flowsheet Data as of  [**2176-6-5**] 09:45 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36
C (96.8
   Tcurrent: 35.8
C (96.4
   HR: 114 (92 - 123) bpm
   BP: 108/54(73) {82/41(45) - 143/97(111)} mmHg
   RR: 21 (16 - 27) insp/min
   SpO2: 98%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 68 Inch
   CVP: 9 (1 - 18)mmHg
   CO/CI (Fick): (13.7 L/min) / (7.7 L/min/m2)
   SvO2: 87%
   Mixed Venous O2% Sat: 75 - 75
                                Total In:
                                                                 16,308 mL
                                                                  2,290 mL
   PO:
                                TF:
   IVF:
                                                                 11,658 mL
                                                                  2,290 mL
   Blood products:
                                                                    650 mL
   Total out:
                                                                  1,900 mL
                                                                    710 mL
   Urine:
                                                                    805 mL
                                                                    470 mL
   NG:
   Stool:
   Drains:
                                                                    665 mL
                                                                    240 mL
   Balance:
                                                                 14,408 mL
                                                                  1,580 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: 7.32/35/91.[**Numeric Identifier 96**]/16/-7
   Physical Examination
   General Appearance: Well nourished
   Cardiovascular: (S1: Normal), (S2: Normal), tachy
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Clear : anteriorly)
   Extremities: Right: Absent, Left: Absent, cool
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Oriented (to): , Movement: Not assessed, Tone: Not assessed,
   restraints
   Labs / Radiology
   11.0 g/dL
   181 K/uL
   93 mg/dL
   0.7 mg/dL
   16 mEq/L
   4.2 mEq/L
   22 mg/dL
   115 mEq/L
   139 mEq/L
   32.1 %
   12.0 K/uL
        [image002.jpg]
                             [**2176-6-4**]  10:10 AM
                             [**2176-6-4**]  10:48 AM
                             [**2176-6-4**]  12:48 PM
                             [**2176-6-4**]  01:45 PM
                             [**2176-6-4**]  01:48 PM
                             [**2176-6-4**]  05:43 PM
                             [**2176-6-4**]  05:47 PM
                             [**2176-6-4**]  11:42 PM
                             [**2176-6-5**]  04:11 AM
                             [**2176-6-5**]  04:30 AM
   WBC
   19.4
   13.5
   12.0
   Hct
   24
   30
   27.4
   26
   28
   27.4
   33
   32.1
   Plt
   222
   207
   181
   Cr
   0.9
   0.8
   0.7
   TCO2
   19
   18
   18
   20
   19
   19
   Glucose
   129
   125
   112
   88
   93
   Other labs: PT / PTT / INR:15.1/35.5/1.3, Differential-Neuts:60.0 %,
   Band:25.0 %, Lymph:2.0 %, Mono:4.0 %, Eos:0.0 %, Lactic Acid:1.2
   mmol/L, LDH:212 IU/L, Ca++:7.4 mg/dL, Mg++:2.2 mg/dL, PO4:2.8 mg/dL
   Imaging: cxr: none
   Microbiology: GNRs and PMNs on gram stain; cx pending
   Assessment and Plan
   87M with h/o prostate cancer p/w recurrent bladder rupture and
   peritonitis and sepsis, s/p partial repair of bladder with improved
   physiology, now on antibiotics:
   1)Sepsis
Patient has had some response to IVF with suggestion of still
   remaining with low filling pressures and even in this setting he has
   been able to wean off of pressors.
   -Will continue with broad spectrum ABX
   -Maintain IVF bolus as needed
   -Continue with CVP monitoring
   -Will work with Urology as to plan and timing for re-exploration
   -HCT adequate
   2)Baldder Rupture-
   -Again, will maintain drain to gravity
   3)Atrial Fibrillation-
   -Would not favor attempt at conversion from a number of issues
   -Continue Pain control
   -Dilt as needed for HR control
   4)Thrombocytopenia
Mild, not near 50% drop
   -Will monitor for further decline
   -Check DIC labs and consider HIT for any further drop
   ICU Care
   Nutrition: Bowel sounds present
nutrition consult today
   Glycemic Control:
   Lines:
   Multi Lumen - [**2176-6-4**] 12:17 AM
   18 Gauge - [**2176-6-4**] 02:06 AM
   20 Gauge - [**2176-6-4**] 02:06 AM
   Arterial Line - [**2176-6-4**] 02:07 AM
Favor D/C of a-line if BP
   measurements reliable
   Prophylaxis:
   DVT: hep sq
   Stress ulcer:  po diet
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition : ICU
   Total time spent: 45

2176-06-06 10:13:00 Physician Attending Progress Note
Chief Complaint: Sepsis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   -Patient with decreased output from JP drain suggesting possible
   improvement in leak
   -O2 requirement decreased from yesterday
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   Amoxicillin
   Nausea/Vomiting
   Penicillins
   Nausea/Vomiting
   Coumadin (Oral) (Warfarin Sodium)
   Unknown;
   Oxycodone
   Unknown;
   Megestrol Acetate
   Nausea/Vomiting
   Remeron (Oral) (Mirtazapine)
   Unknown;
   Ritalin (Oral) (Methylphenidate Hcl)
   Confusion/Delir
   Last dose of Antibiotics:
   Gentamicin - [**2176-6-5**] 04:00 AM
   Cefipime - [**2176-6-5**] 01:28 PM
   Vancomycin - [**2176-6-6**] 08:09 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2176-6-5**] 03:45 PM
   Hydromorphone (Dilaudid) - [**2176-6-6**] 02:15 AM
   Dextrose 50% - [**2176-6-6**] 02:30 AM
   Metoprolol - [**2176-6-6**] 09:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Cardiovascular: Tachycardia
   Respiratory: Tachypnea
   Flowsheet Data as of  [**2176-6-6**] 10:01 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 35.9
C (96.6
   HR: 109 (85 - 137) bpm
   BP: 137/86(108) {89/51(65) - 146/105(121)} mmHg
   RR: 20 (12 - 27) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 68 Inch
   CVP: 18 (6 - 18)mmHg
   CO/CI (Fick): (5.8 L/min) / (3.3 L/min/m2)
   SvO2: 70%
   Total In:
                                                                  3,662 mL
                                                                    965 mL
   PO:
                                                                    100 mL
   TF:
                                                                     10 mL
                                                                     50 mL
   IVF:
                                                                  3,367 mL
                                                                    660 mL
   Blood products:
   Total out:
                                                                  2,245 mL
                                                                  1,050 mL
   Urine:
                                                                  1,945 mL
                                                                    740 mL
   NG:
                                                                    300 mL
   Stool:
   Drains:
                                                                    300 mL
                                                                     10 mL
   Balance:
                                                                  1,417 mL
                                                                    -85 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///19/
   Physical Examination
   General Appearance: Thin
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : )
   Abdominal: Soft, Bowel sounds present
   Extremities: Right: 1+, Left: 1+
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   9.4 g/dL
   144 K/uL
   103 mg/dL
   0.5 mg/dL
   19 mEq/L
   3.8 mEq/L
   17 mg/dL
   114 mEq/L
   139 mEq/L
   28.2 %
   11.0 K/uL
        [image002.jpg]
                             [**2176-6-4**]  01:45 PM
                             [**2176-6-4**]  01:48 PM
                             [**2176-6-4**]  05:43 PM
                             [**2176-6-4**]  05:47 PM
                             [**2176-6-4**]  11:42 PM
                             [**2176-6-5**]  04:11 AM
                             [**2176-6-5**]  04:30 AM
                             [**2176-6-5**]  10:38 AM
                             [**2176-6-5**]  11:01 PM
                             [**2176-6-6**]  03:47 AM
   WBC
   13.5
   12.0
   12.6
   11.0
   Hct
   26
   28
   27.4
   33
   32.1
   44
   27.7
   28.2
   Plt
   [**Telephone/Fax (3) 8990**]44
   Cr
   0.8
   0.7
   0.6
   0.5
   TCO2
   18
   20
   19
   19
   Glucose
   88
   93
   79
   103
   Other labs: PT / PTT / INR:15.1/35.5/1.3, Alk Phos / T Bili:/0.6,
   Differential-Neuts:60.0 %, Band:25.0 %, Lymph:2.0 %, Mono:4.0 %,
   Eos:0.0 %, Lactic Acid:1.2 mmol/L, LDH:170 IU/L, Ca++:7.6 mg/dL,
   Mg++:1.9 mg/dL, PO4:1.8 mg/dL
   Microbiology: Peritoneal Fluid and Urine
Pending
   CXR-Bilateral large pleural effusions and likely pulmonary edema in
   addition
signficantly increased from previous day
   Assessment and Plan
   87 yo male with history of prostate CA and admitted with bladder
   rupture and peritonitis now s/p open repair with continued but
   decreased drainage from IP drains.  He had significant and persistent
   sepsis in the setting of active peritonitis.  He now has had improved
   stability of hemodynamics following correction he now has significant
   volume overload and large bilateraly effusions and pulmonary edema.
   1)Sepsis
   -vanco/Cefepime/Gent to continue
   -He has continued drainage from JP drains and will follow urology recs
   across the day
   -Will move to diuressis today
   2)ATRIAL FIBRILLATION (AFIB)-
   -To continue to work to rate control
   -Lopressor IV
   3)Respiratory Distress-
   -Largely effusions seen on CXR
will continue to minimize O2 as possible
   -Minimal hydrostatic pulmonary edema
   4)Bladder Rupture-
   -Continue with dilaudid for pain control
   -Further intervention per urology
 HYPOGLYCEMIA
 PERITONITIS (NON-SBP)
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 [**Last Name 121**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   Hematuria [**3-4**] bladder rupture
   ICU Care
   Nutrition: TF
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2176-6-4**] 12:17 AM
   Arterial Line - [**2176-6-4**] 02:07 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 40 minutes